US04704464
(i) (S)-1,2-Bis(N-Isopropylamino)-3-Phenylpropane
21.2 mmoles (3.18 grams) of (S)-1,2-diamino-3-phenylpropane were dissolved in 12 ml of benzene, treated with 42.4 mmoles (3.11 ml) of acetone and a spatula tip of p-toluenesulfonic acid. The mixture was heated for 12 hours under reflux in a Soxhlet apparatus which is filled with calcined calcium sulfate as drying agent. After drawing off the solvent in a vacuum there was obtained a light yellowish oil. It was dissolved in 50 ml of methanol, cooled in an ice-salt bath to -10° C. and treated with 80.0 mmoles (3.03 grams) of NaBH4. It was allowed to come to room temperature under stirring and heated for a further 12 hours under reflux. After cooling the solvent was distilled in a vacuum and hydrolyzed with 30 ml of water. It was shaken with 150 ml of ether and the organic phase washed twice with 30 ml of water each time. After drying over sodium sulfate the ether was drawn off and the brownish oil obtained was distilled in a high vacuum at 100° C. air bath temperature. Colorless oil.

reactant | (S)-1,2-diamino-3-phenylpropane | 21.2 mmoles, 3.18 grams | NC[C@H](CC1=CC=CC=C1)N | C9H14N2
reactant | acetone | 42.4 mmoles, 3.11 ml | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | NaBH4 | 80.0 mmoles, 3.03 grams | [BH4-].[Na+]
solvent | benzene | 12 ml | C1=CC=CC=C1 | C6H6
solvent | methanol | 50 ml | CO | CH4O
product | (S)-1,2-Bis(N-Isopropylamino)-3-Phenylpropane | C(C)(C)NC[C@H](CC1=CC=CC=C1)NC(C)C | C15H26N2
